US08067448B2
3-Chloro-4-hydroxybenzohydrazide
Ethyl-3-chloro-4-hydroxybenzoate (4.95 g, 25 mmol) was reacted with hydrazine as described for the preparation of intermediate 22b to afford the product as white crystals (3.15 g, 69%). 1H NMR (400 MHz, DMSO-d6, δ in ppm) 10.71 (br s, 1H), 9.64 (br s, 1H), 7.83 (d, J=2.1 Hz, 1H), 7.65 (dd, J=2.1, 8.4 Hz, 1H), 6.99 (d, J=8.4 Hz, 1H), 4.43 (br s, 2H).

reactant | Ethyl-3-chloro-4-hydroxybenzoate | 25 mmol, 4.95 g | C(C)OC(C1=CC(=C(C=C1)O)Cl)=O | C9H9ClO3
reactant | hydrazine | NN | H4N2
product | 3-Chloro-4-hydroxybenzohydrazide | 3.15 g, 69% | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
